US05616586
8-Bromo-5-benzylcarbamoylmethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 8-bromo-5-carboxymethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione (130 mg, 0.40 mmol) and benzylamine (48 μL, 0.44 mmol) to give 82 mg of the title compound (51%): mp 252° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.13 (s, 1H), 8.69 (t, 1H, J=6 Hz), 7.18~7.34 (m, 5H), 7.20 (s, 2H), 5.16~5.22 (m, 1H), 4.27 (d, 2H, J=6 Hz), 2.80 (dm, 1H, J=18 Hz), 2.55 (dm, 1H, J=14 Hz), 2.46 (m, 1H, J=14 Hz), 1.87~2.03 (m, 1H).

reactant | 8-bromo-5-carboxymethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 0.40 mmol, 130 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CC(=O)O | C12H9BrN2O4
reactant | benzylamine | 0.44 mmol, 48 μL | C(C1=CC=CC=C1)N | C7H9N
product | 8-Bromo-5-benzylcarbamoylmethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 82 mg, 51% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CC(NCC2=CC=CC=C2)=O | C19H16BrN3O3
